US04005084
A solution of 22 g of 1-[2-(2-thenyl)phenoxy]-2,3-epoxypropane in 200 ml of ethanol was added to a mixture of 56 g of 2-aminoethyl hydrogen sulfate, 20 g of sodium hydroxide and 20 ml of water with stirring, and the stirring was continued for 4 hours at room temperature. To the mixture containing the intermediate, 2-[3-(2-hydroxy-3-[2-(2-thenyl)phenoxy]propylamino]-ethyl hydrogen sulfate, was added a solution of 40 g of sodium hydroxide in 40 ml of water, and the resulting mixture was stirred for 18 hours on a water bath. To the reaction mixture were added 500 ml of water and 700 ml of toluene. The toluene layer was washed with water and dried over anhydrous sodium sulfate, and the toluene was distilled off under reduced pressure. The oily residue was treated in the same manner as in Example 1 to give 2-[2-(2-thenyl)phenoxymethyl]morpholine maleate as colorless crystals, melting at 155°-156° C.

reactant | 1-[2-(2-thenyl)phenoxy]-2,3-epoxypropane | 22 g | C1(=CC=CS1)CC1=C(OCC2CO2)C=CC=C1 | C14H14O2S
reactant | 2-aminoethyl hydrogen sulfate | 56 g | S(=O)(=O)(OCCN)O | C2H7NO4S
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
solvent | water | 500 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-[2-(2-thenyl)phenoxymethyl]morpholine maleate | C(\C=C/C(=O)O)(=O)O.C1(=CC=CS1)CC1=C(OCC2CNCCO2)C=CC=C1 | InChI=1S/C16H19NO2S.C4H4O4/c1-2-6-16(19-12-14-11-17-7-8-18-14)13(4-1)10-15-5-3-9-20-15;5-3(6)1-2-4(7)8/h1-6,9,14,17H,7-8,10-12H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
